* BFR740L3RH - Infineon SiGe:C RF NPN
* Extracted from Infineon-RFTransistor-SPICE.lib (v02_10),
* pins: 1=C 2=B 3=E.  ngspice compatible Gummel-Poon subcircuit.

.SUBCKT BFR740L3RH 1 2 3
*
*
CBEPAR 22 33 1.172E-014
CBCPAR 22 11 4.305E-014
CCEPAR 11 33 1.735E-013
*
LB    222 20 4E-010
LC    111 10  4E-010
RBs   222 22 0.001
RCs   111 11 0.001
*
CBEPCK 20 30  3E-014
CBCPCK 20 10  1.033E-014
CCEPCK 10 30  1E-013
LBX    20 2 1E-010
LEX   30 3 1E-011
LCX   10 1  5E-011
RSUB 30 4 0.19
RSUBNPN 44 4 578
Rpsinker 4 33 0.16
*
Q1 11 22 33 44 M_BFR740L3RH
*
K LB LC 0.1
*
*
*
.MODEL 	M_BFR740L3RH	NPN(
+	TNOM = 25
+	IS	=	1.362E-015
+	BF	=	632
+	NF	=	1.027
+	VAF	=	120
+	IKF	=	0.09421
+	ISE	=	1.4E-013
+	NE	=	2.6
+	BR	=	100
+	NR	=	1
+	VAR	=	1.7
+	IKR	=	0.0035
+	ISC	=	5E-015
+	NC	=	2
+	RB	=	2
+	IRB	=	0.000889
+	RBM	=	0.6
+	RE	=	0.1019
+	RC	=	5.14
+	XTB	=	-2.482
+	EG	=	1.034
+	XTI	=	0.808
+	CJE	=	3.14E-013
+	VJE	=	0.8119
+	MJE	=	0.1431
+	TF	=	1.667E-012
+	XTF	=	200
+	VTF	=	0.3493
+	ITF	=	0.3
+	PTF	=	1
+	CJC	=	8.419E-014
+	VJC	=	0.4412
+	MJC	=	0.3364
+	XCJC	=	0.6466
+	TR	=	2.786E-008
+	CJS	=	2.229E-013
+	MJS	=	0.2684
+   VJS =   0.4393
+	FC	=	0.8156
+	KF	=	2.56E-011
+	AF	=	1.798)
***************************************************************
*
*
.ENDS BFR740L3RH
