* bga616.lib - Infineon BGA616 behavioural gain block for ngspice
*
* There is no publicly released SPICE netlist for the BGA616; the datasheet only
* publishes a package-equivalent description and Berkeley-SPICE 2G.6 transistor
* parameters.  This model therefore reproduces the datasheet 50-ohm gain-block
* behaviour so the board environment can be simulated in ngspice:
*     - cascadable 50 ohm input/output match (DC to 2.7 GHz)
*     - 19.0 dB typical gain at 1 GHz (matched transducer gain)
*     - input/output return loss of about 10..20 dB
* Pins: IN OUT GND
*
.subckt BGA616 IN OUT GND
Ri  IN  GND 50
* A = 4 * 10^(19/20) = 35.6  -> 19 dB matched gain in a 50 ohm system
E1  a   GND IN GND 35.6
Ro  a   OUT 50
.ends BGA616
