* LED-board bias-tee (Transmitter/LED/LED.kicad_sch).
* J3 (bias) -> L1 -> LED node ; J1 -> C1 -> LED node ; J2 -> C2 -> LED node.
* The LED is the load.  Ports: rf bias led gnd
.subckt BIAS_TEE rf bias led gnd
C1 rf led 0.1u
L1 bias led 206n
.ends BIAS_TEE
