* FCA channel A (OPA2675) - amplifier + input filter.
* Values from the root netlist LumiCom_Transmitter.kicad_sch.
* The deck must include the OPA2675 model.  Ports: in out vcc vee gnd
.subckt FCA in out vcc vee gnd
C4 in npi 0.1u
R7 npi npi2 49.9
C6 npi2 gnd 0.1u
R4 vcc npi2 5.1k
R5 npi2 gnd 5.1k
XU npi2 nni outa vcc vee 0 gnd OPA2675
R11 nni outa 402
R9 nni c8 133
C8 c8 gnd 0.1u
C9 outa o1 0.1u
R13 o1 out 1
.ends FCA
