* LED board bias-T + LED small-signal equivalent (Li et al. 2019).
* Values from Transmitter/LED/LED.kicad_sch.  Ports: rf bias gnd
.subckt LEDBOARD rf bias gnd
C1 rf n1 0.1u
L1 bias n1 206n
R8 n1 a 1.35
L3 a b 0.99n
R9 b c 0.54
C4 b c 130n
R10 c gnd 0.39
.ends LEDBOARD
