* LED small-signal equivalent (Li et al. 2019), from the pre-emphasis sim.
* Ports: a gnd
.subckt LED_EQ a gnd
R8 a b 1.35
L3 b c 0.99n
R9 c d 0.54
C4 c d 130n
R10 d gnd 0.39
.ends LED_EQ
